US04826866
3-(Ethylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A mixture of 47.68 g (0.4 mole) of 4-ethyl-3-thiosemicarbazide and 65.8 g (0.4 mole) of ethyl 2-chloroacetoacetate was stirred under nitrogen atmosphere for 1.5 hr at ambient temperature then treated with 200 mL of 2N ethanolic hydrogen chloride. The mixture was stirred for ~72 hr, filtered to remove the amorphous sulfur, and the solvent was removed in vacuo to give a deep amber oil which solidified. Recrystallization from acetone gave 27 g of crude product which was recrystallized from benzene/petroleum ether to give 23.5 g of fine white crystals, mp 140°-148° C. Rework of the filtrate gave an additional 17.5 g of crude product.

reactant | 4-ethyl-3-thiosemicarbazide | 0.4 mole, 47.68 g | C(C)NC(NN)=S | C3H9N3S
reactant | ethyl 2-chloroacetoacetate | 0.4 mole, 65.8 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | hydrogen chloride | 2N, 200 mL | Cl | ClH
product | 3-(Ethylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 23.5 g | Cl.C(C)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C9H15N3O2.ClH/c1-4-10-8-7(6(3)11-12-8)9(13)14-5-2;/h4-5H2,1-3H3,(H2,10,11,12);1H
